US07582638B2
5-(1-methoxy-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine
Heat a mixture of 3-(1-methoxy-cyclopropyl)-3-oxo-propionitrile (Preparation 2, 3.55 g, 25.5 mmol) and p-tolylhydrazine hydrochloride (12.15 g, 76.5 mmol) in ethanol (50 mL) at 90° C. in a sealed tube for 18 hours. After removal of the solvent, subject residue to silica gel chromatography eluting with 0-5% methanol in dichloromethane to give the title compound as a yellow solid (3.29 g, 53% yield, ES+(m/z) 244.2 [M+H]).

reactant | 3-(1-methoxy-cyclopropyl)-3-oxo-propionitrile | 25.5 mmol, 3.55 g | COC1(CC1)C(CC#N)=O | C7H9NO2
reactant | p-tolylhydrazine hydrochloride | 76.5 mmol, 12.15 g | Cl.C1(=CC=C(C=C1)NN)C
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-(1-methoxy-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine | 3.29 g, 53% yield | COC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)N | C14H17N3O
